US09403798B2
2-(4-Fluorophenyl)-4-nitro-1H-pyrrole
2-Bromo-4-nitro-1H-pyrrole (886 mg, 4.64 mmol) synthesized in Reference Synthesis Example 244 and 4-fluorophenylboronic acid (779 mg, 5.57 mmol) were used to obtain the title compound (383 mg, yield 40%) by synthesis in a similar manner to Reference Synthesis Example 139.

reactant | 2-Bromo-4-nitro-1H-pyrrole | 4.64 mmol, 886 mg | BrC=1NC=C(C1)[N+](=O)[O-] | C4H3BrN2O2
reactant | 4-fluorophenylboronic acid | 5.57 mmol, 779 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | 2-(4-Fluorophenyl)-4-nitro-1H-pyrrole | 383 mg, yield 40% | FC1=CC=C(C=C1)C=1NC=C(C1)[N+](=O)[O-] | C10H7FN2O2
